US07632837B2
56E. Preparation of 7-(4-chlorophenyl)-6-(2,4-dichlorophenyl)-3-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridine
To a degassed solution of 6-bromo-7-(4-chlorophenyl)-3-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridine (9.5 mg, 0.02 mmol), 2,4-dichlorophenylboronic acid (8.0 mg, 0.041 mmol) and K2CO3 (8.5 mg, 0.061 mmol) in 1,4-dioxane (0.3 mL) and H2O (0.1 mL) was added Pd(PPh3)4 (2.3 mg, 0.002 mmol) under argon at 20° C. The reaction mixture was heated at 100° C. for 2 h under argon, then allowed to cool to 20° C. The reaction was concentrated in vacuo, and the residue was purified using reverse phase preparative HPLC (Conditions: Phemomenex Luna 5μC18 30×75 mm; Eluted with 0% to 100% B, 10 min gradient, 100% B hold for 2 min, (A=90% H2O, 10% CH3CN, 0.1% trifluoroacetic acid and B=10% H2O, 90% CH3CN, 0.1% trifluoroacetic acid); Flow rate at 40 mL/min, UV detection at 220 nm) to afford 5.5 mg (55%) of the title compound as a white solid. LC/MS (method B): retention time=2.03 min, [M+H]+=533.2.

reactant | 6-bromo-7-(4-chlorophenyl)-3-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridine | 0.02 mmol, 9.5 mg | BrC=1C(=CC=2N(C1)C(=NN2)CC=2C=NC(=CC2)C(F)(F)F)C2=CC=C(C=C2)Cl | C19H11BrClF3N4
reactant | 2,4-dichlorophenylboronic acid | 0.041 mmol, 8.0 mg | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | K2CO3 | 0.061 mmol, 8.5 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 0.3 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 0.1 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.002 mmol, 2.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(4-chlorophenyl)-6-(2,4-dichlorophenyl)-3-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridine | 5.5 mg, 55% | ClC1=CC=C(C=C1)C1=CC=2N(C=C1C1=C(C=C(C=C1)Cl)Cl)C(=NN2)CC=2C=NC(=CC2)C(F)(F)F | C25H14Cl3F3N4
